US07432287B2
Preparation of 3-(3-chloro-4-methanesulfonylphenoxy)-5-(2-hydroxy-1-methyl-ethoxy)-N-(1-methyl-1H-pyrazol-3-yl)benzamide
The compound of Production Example 160 was obtained as a white amorphous substance using 5-hydroxy-3-methoxymethoxybenzoic acid methyl ester, 4-bromo-2-chloro-methanesulfonylbenzene, (2R)-1-(t-butyldimethylsiloxy)-2-hydroxypropane and 3-amino-1-methyl-1H-pyrazole, by the same method as in Production Example 42, a corresponding method, or a combination thereof with an ordinary method.

reactant | 5-hydroxy-3-methoxymethoxybenzoic acid methyl ester | COC(C1=CC(=CC(=C1)O)OCOC)=O | C10H12O5
reactant | 4-bromo-2-chloro-methanesulfonylbenzene | BrC1=CC(=C(C=C1)S(=O)(=O)C)Cl | C7H6BrClO2S
reactant | (2R)-1-(t-butyldimethylsiloxy)-2-hydroxypropane | O([Si](C)(C)C(C)(C)C)C[C@@H](C)O | C9H22O2Si
reactant | 3-amino-1-methyl-1H-pyrazole | NC1=NN(C=C1)C | C4H7N3
product | 3-(3-chloro-4-methanesulfonylphenoxy)-5-(2-hydroxy-1-methyl-ethoxy)-N-(1-methyl-1H-pyrazol-3-yl)benzamide | ClC=1C=C(OC=2C=C(C(=O)NC3=NN(C=C3)C)C=C(C2)OC(CO)C)C=CC1S(=O)(=O)C | C21H22ClN3O6S
